US05883102
(a) 2-Aminobenzamidoxime
A suspension of 2-aminobenzonitrile (10 g, 0.084 mol), sodium methoxide (4.65 g, 0.084 mol) and hydroxylamine hydrochloride (5.88 g, 0.048 mol) in methanol was heated under reflux for 18 hours. The mixture was concentrated to an oil which was partitioned between ethyl acetate and 10% sodium hydroxide solution. The basic phase was separated and extracted three times with ethyl acetate. The combined organic solution was washed three times with saturated brine and dried over magnesium sulphate. Evaporation of the solvent gave the product as an oil which was purified by flash column chromatography on silica gel, eluting with dichloromethane/ethanol as eluant to afford the product as an oil (7.3 g), MS (+FAB) 152 ([M+H]+), 1H NMR (CDCl3) 7.3-6.7 (4H, m), 5.1-4.7 (4H, br, s).

reactant | 2-aminobenzonitrile | 0.084 mol, 10 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | sodium methoxide | 0.084 mol, 4.65 g | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.048 mol, 5.88 g | Cl.NO
solvent | methanol | CO | CH4O
product | 2-Aminobenzamidoxime | NC1=C(C(N)=NO)C=CC=C1 | C7H9N3O
